US08106043B2
7-Amino-4-(2-(dimethylamino)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one:
A solution of 4-(2-(dimethylamino)ethyl)-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (0.5 g, 1.884 mmol) in dry ethanol (5 mL) was treated with Pd—C (˜0.05 g) and purged with hydrogen gas. The flask was evacuated and purged with hydrogen gas (twice) and stirred at room temperature under hydrogen atm. (balloon pressure) for 2 hours. The reaction was filtered through a Celite bed and washed with methanol (3×10 mL). The combined organic layers were evaporated to obtain the crude title compound (0.44 g, quantitative) as a solid. 1H NMR (DMSO-d6) δ 2.16 (s, 6H), 2.36 (t, 2H, J=6.9 Hz), 3.88 (t, 2H, J=6.9 Hz), 4.47 (s, 2H), 5.01 (s, 2H), 6.21 (d, 1H, J=2.1 Hz), 6.25 (dd, 1H, J=2.7, 8.5 Hz), 6.84 (d, 1H, J=8.4 Hz); ESI-MS (m/z, %): 236 (MH+, 31), 191 (100).

reactant | 4-(2-(dimethylamino)ethyl)-7-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.884 mmol, 0.5 g | CN(CCN1C2=C(OCC1=O)C=C(C=C2)[N+](=O)[O-])C | C12H15N3O4
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd—C | ˜0.05 g | [Pd] | Pd
product | 7-Amino-4-(2-(dimethylamino)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.44 g | NC=1C=CC2=C(OCC(N2CCN(C)C)=O)C1 | C12H17N3O2
